US05627182
a) 2-(2-Hydroxyethyl)-anisole
To a solution of 10 g of 2-(2-hydroxyphenyl-ethanol in 200 ml of acetone there are added 35.3 g of Cs2CO3 and then a solution of 6.5 ml of methyl iodide in 40 ml of acetone. The reaction mixture is stirred for 50 minutes at room temperature, is filtered and is concentrated by evaporation. The residue is partitioned between diethyl ether and water. The organic phases are combined, dried over magnesium sulfate and concentrated by evaporation, and the residue is purified by means of FC (dichloromethane/diethyl ether=97:3), yielding the title compound; Rf (dichloromethane/diethyl ether=97:3)=0.34; HPLC Rt =9.31 minutes.

reactant | 2-hydroxyphenyl-ethanol | OC1=C(C=CC=C1)C(C)O | C8H10O2
reactant | Cs2CO3 | 35.3 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | methyl iodide | 6.5 ml | CI | CH3I
reactant | acetone | 200 ml | CC(=O)C | C3H6O
reactant | acetone | 40 ml | CC(=O)C | C3H6O
product | 2-(2-Hydroxyethyl)-anisole | OCCC1=C(C=CC=C1)OC | C9H12O2
